US07666888B2
5-(4-Methoxyphenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole
The title compound was prepared from 5-(4-methoxyphenyl)isoxazole-4-carboxylic acid (11.0 mg, 0.050 mmol) and pyrrolidine (4.3 mg, 0.060 mmol) as described in synthetic method A and thereafter purified, first by preparative HPLC method A and then by method B, to give a solid (15.1 mg). MS (pos) m/z 273.2 (M+H).

reactant | 5-(4-methoxyphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.0 mg | COC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO4
reactant | pyrrolidine | 0.060 mmol, 4.3 mg | N1CCCC1 | C4H9N
product | 5-(4-Methoxyphenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole | COC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCCC1 | C15H16N2O3
